US06410734B1
3-[5-(4-{4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-di hydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzylidene)-4-oxo-4,5-dihydro-thiazol-2-ylamino]-propionic acid
The title compound was prepared from 3-[5-(4-{4-[(2S)-2-hydroxy-3-(2-oxo-2,3-dihydro-1 H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzylidene)-4-oxo-4,5-dihydro-thiazol-2-ylamino]-propionic acid ethyl ester (which was obtained in Example 8)by NaOH hydrolysis as a pale yellowish solid; MS (ES) m/z: 291.0 ((M+2H)2+, 100%); 581.0 (MH+, 30%); HRMS Calcd. for C28H33N6O6S (MH+): 581.2182. Found: 581.2195.

reactant | 3-[5-(4-{4-[(2S)-2-hydroxy-3-(2-oxo-2,3-dihydro-1 H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzylidene)-4-oxo-4,5-dihydro-thiazol-2-ylamino]-propionic acid ethyl ester | C(C)OC(CCNC=1SC(C(N1)=O)=CC1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O)=O | C30H36N6O6S
reactant | NaOH | [OH-].[Na+]
product | 3-[5-(4-{4-[(2S)-2-Hydroxy-3-(2-oxo-2,3-di hydro-1H-benzoimidazol-4-yloxy)-propylamino]-piperidin-1-yl}-benzylidene)-4-oxo-4,5-dihydro-thiazol-2-ylamino]-propionic acid | O[C@@H](CNC1CCN(CC1)C1=CC=C(C=C2C(N=C(S2)NCCC(=O)O)=O)C=C1)COC1=CC=CC=2NC(NC21)=O | C28H32N6O6S
